US06010981
G) 2-Chloro-4-methylsulfonyl-3-phenylbenzoic Acid
Methyl 2-chloro-4-methylsulfonyl-3-phenyl-benzoate was hydrolyzed with sodium hydroxide in aqueous methanol solution and recovered using standard methodology to obtain the title compound, a white solid, which was used as an intermediate without further analysis.

reactant | Methyl 2-chloro-4-methylsulfonyl-3-phenyl-benzoate | ClC1=C(C(=O)OC)C=CC(=C1C1=CC=CC=C1)S(=O)(=O)C | C15H13ClO4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-Chloro-4-methylsulfonyl-3-phenylbenzoic Acid | ClC1=C(C(=O)O)C=CC(=C1C1=CC=CC=C1)S(=O)(=O)C | C14H11ClO4S
